US07138425B2
c) 2-[2-Methoxy-5-[5-(3,4-difluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methoxyphenyl)-5-(3,4-difluorophenyl)benzoxazole (63 mg, 0.18 mmol) and 1,2,4-benzenetricarboxylic anhydride (35 mg, 0.18 mmol) the title compound was obtained (25 mg, 27%). 1H NMR (DMSO) δ 8.53(dd, 1H), 8.42(m, 3H), 8.18(m, 2H), 7.94(m, 2H), 7.79(dd, 1H), 7.60(m, 3H), 3.95(s, 3H). MS 527 m/z (M+H)+.

reactant | 2-(3-amino-4-methoxyphenyl)-5-(3,4-difluorophenyl)benzoxazole | 0.18 mmol, 63 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)F | C20H14F2N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.18 mmol, 35 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-(3,4-difluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)F)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H16F2N2O6
